US05962744
To a 300 mL stainless steel autoclave with two sapphire windows containing Rh(acac)(CO)2 (1.5 mg, 6×10-3 mmol) and a diphosphite ligand, BIPHEPHOS or MCP-1, (1.2×10-2 mmol) was added 1,6-heptadien-4-ol (112 mg, 1.0 mmol). The air was replaced by CO and CO (7 atm) was introduced followed by H2 (7 atm). The reaction vessel was cooled to -60° C. and CO2 (85 atm) was introduced. The mixture was allowed to stir at 65° C. and 100 atm overnight. The autoclave was cooled to 0° C. and all the gasses were carefully released. The reaction mixture was then concentrated under vacuum and the residue was chromatographed on silica gel using hexane/AcOEt as the eluant to give 6-(3-formylpropyl)-2-hydroxytetrahydropyran in nearly quantitative yield: 1H NMR (CDCl3) (two diastereomers) δ 1.14-2.02 (m, 10 H), 2.43 (t, J=6.8 Hz, 2 H), 3.16 (br s, 1 H), [3.36-3.44 (m), 3.88-3.96 (m)] (1 H), [4.66 (d, J=9.1 Hz), 5.26 (br s)] (1 H), 9.74 (s, 1 H); 13C NMR (CDCl3) δ [17.50, 18.04], 21.95, [30.26, 30.99], [32.55, 32.03], [35.01, 35.18], [43.13, 43.52], [72.96, 75.64], [91.36, 96.21], [201.90, 202.74]; IR (neat, cm-1) 3420, 2942, 2867, 2723, 1724, 1458, 1440, 1412, 1390, 1352, 1184, 1116, 1066, 1035, 977.

reactant | diphosphite | [O-]P([O-])OP([O-])[O-]
reactant | BIPHEPHOS | CC(C)(C)C1=C(C(=CC(=C1)OC)C2=CC(=CC(=C2OP3OC4=CC=CC=C4C5=CC=CC=C5O3)C(C)(C)C)OC)OP6OC7=CC=CC=C7C8=CC=CC=C8O6 | C46H44O8P2
reactant | 1,6-heptadien-4-ol | 1.0 mmol, 112 mg | C=CCC(CC=C)O | C7H12O
reactant | CO2 | C(=O)=O | CO2
product | 6-(3-formylpropyl)-2-hydroxytetrahydropyran | quantitative yield | C(=O)CCCC1CCCC(O1)O | C9H16O3
